US06284748B1
A solution of 6-chloro-5-amino-4-(neopentylamino)pyrimidine (1 mmol) in diethyl ether was treated with pyridine (3 mmol), and acetoxyacetyl chloride (1.2 mmol) at 25° C. for 12 h. Extraction and chromatography afforded 6-chloro-5-acetoxyacetyl-amino-4-neopentylaminopyrimidine as a yellow solid. TLC: Rf=0.18, 30% EtOAc-hexane.

reactant | 6-chloro-5-amino-4-(neopentylamino)pyrimidine | 1 mmol | ClC1=C(C(=NC=N1)NCC(C)(C)C)N | C9H15ClN4
reactant | pyridine | 3 mmol | N1=CC=CC=C1 | C5H5N
reactant | acetoxyacetyl chloride | 1.2 mmol | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-chloro-5-acetoxyacetyl-amino-4-neopentylaminopyrimidine | ClC1=C(C(=NC(=N1)N)NCC(C)(C)C)C(COC(C)=O)=O | C13H19ClN4O3
